US05254565
A mixture of 2-amino-2'-chloro-3,5-dimethylbenzophenone (1 g), acetone (50 ml), 20 % hydrochloric acid (20 ml) and methazonic acid (4.5 g, wet) was stirred for 2 hrs. at room temperature and refluxed for 4 hrs. The mixture was diluted with water, and extracted with chloroform. The organic layer was washed with water, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by a column chromatography on silica gel to give 4-(2-chlorophenyl)-6,8-dimethyl-3-nitroquinoline as crystals, which was recrystallized from a mixture of methanol and chloroform. m.p. 130°-131° C. Yield 1.95 g (54.2 %).

reactant | 2-amino-2'-chloro-3,5-dimethylbenzophenone | 1 g | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1C)C | C15H14ClNO
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | methazonic acid | 4.5 g | C(/C=N\O)[N+](=O)[O-] | C2H4N2O3
solvent | water | O | H2O
product | 4-(2-chlorophenyl)-6,8-dimethyl-3-nitroquinoline | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)[N+](=O)[O-] | C17H13ClN2O2
